Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever, altered mental status
 
Major Surgical or Invasive Procedure:
 
History of Present Illness:
(History obtained from chart as pt is somnolent) ___ y/o M with 
metastatic melanoma s/p R frontal craniotomy ___ with resection 
of mass, s/p Cyberknife ___, who presented to ___ 
in ___ ___ for lethargy.  He had reportedly been having 
increased seizure activity recently and his keppra was 
increased.  However, when his son went to check on him on ___, 
he appeared to be havign more prolonged seizure activity.  He 
also was weak and unsteady, so was brought to their ER.  Of 
note, at his baseline, he is alert and oriented, able to 
ambulate, give a clear history, etc. although does have a tremor 
which causes him problems.

At the OSH, he was febrile and admitted to the ICU.  He was 
given IVF, vancomycin, and levofloxacin.  UA was normal, blood 
cx are preliminarily negative, CXR clear.  Urine cx reportedly 
grew enterococcus.  He was restarted on steroids which he has 
taken in the past.  He did not have any seizures and was 
continued on keppra.  He remained hemodynamically stable 
throughout.  He had a head CT demonstrating a subdural fluid 
collection which apparently was larger than a CT done there on 
___ a repeat head CT a few hours later was unchanged.  He 
was transferred here as his oncologists are here, and it was 
felt he needed neurosurgical evaluation for the subdural 
collection to see whether this was the cause of his fevers and 
increasing seizures.
 
Past Medical History:
Past Medical Hx:
1. Metastatic melanoma: Summarized in most recent note by Dr. 
___: Mr. ___ presented in ___ with stage
IIC melanoma in the right temple and underwent wide local
excision at that time.  He received interferon for 11 months,
developed recurrence four months later in the right 
periauricular
region.  He had surgical excision followed by reexcision as well
as parotidectomy and then received radiation in this region with
5000 cGy in ___.  In ___, he developed skin lesions on
his lips, right leg, left occiput, and left temple.  All these
lesions were excised and pathology revealed incompletely excised
metastatic melanoma.  He additionally underwent CT scan of the
torso on ___, which revealed lung, liver, soft tissue,
bone, and adrenal metastasis.  On ___, he underwent CT
scan of the brain that showed three lesions, two in the right 
and
left frontal lobes with associated edema and the third in the
right frontoparietal lobe.  He was referred to ___
here at ___ and was started on CTLA-4 antibody protocol on
___.  His course was complicated by colitis requiring one
hospitalization in ___ and two hospitalizations at ___, but
he eventually responded to high-dose steroids.  His course has
been complicated with elevated blood sugars and some proximal
muscle weakness while on steroids. Scans on ___ revealed
slight increase in size and surrounding edema of brain lesions. 
He was subsequently seen by Dr. ___ in brain tumor clinic
and his scans were reviewed by both her and Dr. ___ 
of
the radiation oncologist.  In discussion further with Dr.
___ was agreed that they would pursue a slow steroid
taper and follow him clinically and with MRI.  Head MRI on ___
showed progression of his prominent frontal brain metastasis 
with
edema and shift prompting emergent neurosurgery for resection of
this lesion.  
2. HTN
3. DM
4. Hyperlipidemia
5. OSA
6. Remote hx nephrolithiasis
 
Social History:
___
Family History:
His father had melanoma with extensive disease on his nose which 
required essentially entire excision of his nose and then he 
believes he developed metastatic disease. He died of an MI at 
age ___. His mother is ___ and still alive. He has no siblings. 
His children are all healthy. 
 
Physical Exam:
Vitals: T 96.8 BP 140/85  P 65  R ___ SpO2 95%RA
Gen: lethargic but easily arousable, oriented to person and 
intermittently to place, did not know date, does know his 
birthday
HEENT: approx 8 cm fluid collection on exterior of skull near 
crown of head, nontender, no erythema surrounding it, not tense. 
 MM dry.
Neck: supple, no LAD
Lungs: CTA anteriorly
CV: RRR, no m/r/g
Abd: soft, nt/nd, +BS
Ext: warm/dry, no edema
Neuro: CN II-XII intact, strength ___ x4, + tremor in all 4 
extremities
 
Pertinent Results:
Admission labs:
___ 06:55AM BLOOD WBC-3.3* RBC-3.40* Hgb-11.0* Hct-29.8* 
MCV-88 MCH-32.2* MCHC-36.8* RDW-15.2 Plt ___
___ 06:55AM BLOOD Glucose-136* UreaN-21* Creat-1.0 Na-133 
K-3.8 Cl-101 HCO3-24 AnGap-12
___ 06:55AM BLOOD Calcium-9.3 Phos-2.7 Mg-1.9
.
Discharge labs:
___ 06:35AM BLOOD WBC-3.7* RBC-3.62* Hgb-11.7* Hct-31.2* 
MCV-86 MCH-32.2* MCHC-37.4* RDW-15.1 Plt ___
___ 06:35AM BLOOD Glucose-91 UreaN-15 Creat-0.8 Na-141 
K-3.7 Cl-104 HCO3-28 AnGap-13
___ 06:35AM BLOOD Calcium-9.2 Phos-2.2* Mg-1.9
.
OSH Micro: UCx ___ positive for Enterococcus faecalis 
sensitive to flouroquinalones
.
MR HEAD W & W/O CONTRAST Study Date of ___ 5:44 AM 
COMPARISON: ___. FINDINGS: Patient is status post right 
frontoparietal craniotomy with associated post-surgical changes 
demonstrated. There is a stable right supratentorial convexity 
subdural fluid collection. There has been slight interval 
decrease in size of the small anterior right frontal epidural 
collection. Of note, there is restricted diffusion within the 
right frontal epidural fluid collection, decreased when compared 
to the prior exam, however, there is no definite evidence for 
enhancement, also accompanies the fact that there is intrinsic 
T1 hyperintensity seen and therefore likely represents apparent 
restricted diffusion, secondary to blood rather than abscess. 
There is stable nodular enhancement surrounding the right 
frontal resection cavity site predominantly in the posterior, 
medial and inferior aspects with associated persistent 
restricted diffusion, suggesting residual high-grade tumor. 
There has been interval increase in size of a posterior right 
frontal ring- enhancing metastatic lesion, measuring 6.3 mm, 
previously measuring 4 mm. There is a stable left inferior 
frontal focus of susceptibility which demonstrates slight 
decrease in enhancement when compared to the prior exam, also 
most consistent with a metastatic lesion. On the axials post 
gadolinium images of the posterior fossa, there are two areas of 
"apparent" enhancement in the left cerebellar hemisphere, likely 
representing artifact, given the fact that these are not 
correlated on other orthogonal post- axial images and FLAIR 
images. There is a stable, left greater than right, 
frontoparietal subgaleal fluid collection without restricted 
diffusion to suggest abscess. The orbital structures are 
unremarkable. There is mucosal thickening of the bilateral 
maxillary antrum and ethmoid air cells. There is a mucosal 
retention cyst in the left maxillary antrum. There has been 
interval resolution of the bilateral air- fluid levels within 
the maxillary antrum. IMPRESSION: 1. Findings most consistent 
with residual tumor surrounding predominantly the posterior, 
medial and inferior resection cavity margins in the right 
frontal resection cavity. Interval increase in right frontal 
metastatic lesion. Slight decrease in enhancement of left 
frontal metastatic lesion. 2. Stable right subdural fluid 
collection. 3. Interval decrease in size of right frontal 
epidural collection with associated restricted diffusion, 
however, no enhancement suggesting a likely hemorrhagic fluid 
collection rather than abscess. 4. Stable bi-frontoparietal 
subgaleal fluid collection. 5. Interval resolution of bilateral 
air-fluid levels within the maxillary antrum.
.
CHEST (PORTABLE AP) Study Date of ___ 4:39 ___ Portable AP 
chest radiograph was compared to ___ and CT torso 
from ___. The current study demonstrates right basal 
opacity obscuring partially the diaphragm that is new since the 
prior study and is worrisome for right lower lobe pneumonia. 
Left basal retrocardiac opacity most likely representing 
atelectasis or a combination of atelectasis with known 
mediastinal lymph nodes. There is no pleural effusion or 
pneumothorax. IMPRESSION: Right lower lobe opacity, worrisome 
for infection process, especially given the patient's clinical 
findings.
 
Brief Hospital Course:
___ y/o M with metastatic melanoma s/p R frontal craniotomy ___ 
with resection of mass, s/p Cyberknife ___, who presented to 
___ in ___ ___ for lethargy. He had reportedly 
been having increased seizure activity recently and his keppra 
was increased. Transferred to ___ overnight ___ at family 
request. Noted to have UTI with enterococcus at OSH and possible 
LLL PNA for which he was started on vanc/levoflox. He has 
notable ___ breathing when sleeping and has his own 
bipap machine. He improved dramatically with antibiotics. 
Ultimately it was believed that his altered MS was due to 
infection. His cultures grew Entercoccus sensitive to 
flouroquinolones and he was treated with levofloxacin. He was 
also given stress dose steroids and tapered. He was discharged 
to rehab with planned follow up. 
.
# Fever/altered mental status: Unclear etiology initially. DD 
included medication effect, progression of disease, or infection 
such as his PNA or UTI, although most concerning would be an 
infected subdural fluid collection. No evidence of increased ICP 
or meningitis on exam. Initially on vanc/levofloxacin (PCN 
allergic) for UTI and PNA. Repeat CXR showed ongoing LLL 
infiltrate consistent with PNA. UCx at OSH positive for 
pan-sensitive Enterocooccus continuing only levofloxacin 750mg 
PO daily from ___ to ___
.
# Enterococcal UTI: UCx from OSH grew out enterococcus S to FQs 
as above. Rx as above.
.
# PNA: LLL on CXR at OSH and here. Continue levofloxacin as 
above. 
.
# Mestastatic melanoma: Mets to brain. Continued Keppra for 
seizure ppx. Had been on steroids for edema of mets. Was 
initially on stress dose steroids. Discharged with the following 
steroid taper:
-- Prednisone 40mg daily ___
-- Prednisone 30mg daily ___
-- Prednisone 20mg daily ___
-- Prednisone 10mg daily ___
-- Prednisone 5mg daily ___
Also start bactrim SS, PPI, nystatin, Ca and vitamin D daily as 
PPx
.
# HTN: Patient is on atneolol, doxazosin, and lisinopril as an 
outpatient. These were for concern for sepsis. Med restarted at 
discharge. 
.
# DM: Lantus qhs and insulin sliding scale. 
 
Medications on Admission:
Medications on transfer:
Decadron 4 mg IV q6h
Ativan prn (received in ambulance during transport)
Keppra 1500 mg po bid
Lantus 30 units qhs
Humalog sliding scale
Protonix 40 mg daily
Vancomycin 1250 mg IV q12h
Levofloxacin 750 mg IV q24h

 
Discharge Medications:
1. Levetiracetam 500 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day).  
2. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours): continue until ___.  
3. Prednisone 10 mg Tablet Sig: as directed Tablet PO once a 
day: 40mg daily ___ (4 pills)
30mg daily ___ (3 pills)
20mg daily ___ (2 pills)
10mg daily ___ (1 pill)
5mg daily ___ pill)
.  
4. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily).  
7. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
8. Insulin Glargine 300 unit/3 mL Insulin Pen Sig: Thirty (30) 
units Subcutaneous at bedtime.  
9. Insulin Aspart 100 unit/mL Insulin Pen Sig: as directed 
sliding scale Subcutaneous four times a day.  
10. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  

11. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Nystatin 100,000 unit/mL Suspension Sig: Five (5) mL PO 
three times a day: swish and swallow.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary -
Change in mental status

Secondary -
Metastatic melanoma
Hypertension
Diabetes
Obstructive sleep apnea
 
Discharge Condition:
Stable vital signs, afebrile, at baseline
 
Discharge Instructions:
You were admitted to the hospital due to change in mental status 
and recent fevers. We found that you had both a urinary tract 
infection and pneumonia. Initially you were on IV antibiotics. 
Based on your test results we switched you to pill antibiotics. 
You improved clinically. 

Because you were on steroids for your brain metastases, you will 
need to slowly taper off this medication. Here is your steroid 
taper:
-- Prednisone 40mg daily ___ (4 pills)
-- Prednisone 30mg daily ___ (3 pills)
-- Prednisone 20mg daily ___ (2 pills)
-- Prednisone 10mg daily ___ (1 pill)
-- Prednisone 5mg daily ___ pill)

Because you are on steroids, you will need to take some 
additional medications to prevent infections and other 
complications. These include Bactrim, calcium, vitamin D, 
nystatin, and pantoprazole. 

You will also need to take an antibiotic called levofloxacin 
500mg daily until ___.

Call your primary doctor, or go to the emergency room if you 
experience fevers, chills, confusion, shortness of breath, chest 
pain, or other concerning symptoms.
 
Followup Instructions:
___